US06291452B1
To a mixture of 2-toluidine (32.8 g, 0.30 ml) and acetonitrile (6.22 g, 0.15 mol) in dry toluene (200 ml) was added 1N-solution of boron trichloride in toluene (150 ml) dropwise under stirring and cooling in an ice-bath for 2 hours. After the addition was completed, the mixture was stirred for 1 hour at ambient temperature and cooled again. To the cooled mixture was added aluminum chloride (20.0 g, 0.15 mol) portionwise. The resultant mixture was stirred at ambient temperature for 1 hour and refluxed for 5 hours. After cooling the reaction mixture in an ice-bath, 2N-HCl (200 ml) was added. The mixture was then refluxed for 2.5 hours. After cooling the mixture, ethyl acetate was added. The separated organic layer was washed with water twice and dried over magnesium sulfate. Removal of the solvent in vacuo Save crystals, which was washed with n-hexane with stirring and collected by filtration to give 2-acetyl-6-methylaniline as a yellow crystal (8.91 g, 39.8%).

reactant | 2-toluidine | 0.30 ml, 32.8 g | NC=1C(=CC=CC1)C | C7H9N
reactant | acetonitrile | 0.15 mol, 6.22 g | C(C)#N | C2H3N
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | aluminum chloride | 0.15 mol, 20.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 200 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetyl-6-methylaniline | 8.91 g, 39.8% | C(C)(=O)C1=C(N)C(=CC=C1)C | C9H11NO
